US07645752B2
Step 6: Preparation of N-methyl-N-{2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethyl}amine
To a stirred solution of methyl methyl{2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethyl}carbamate (171 mg, 0.46 mmol) in ethylene glycol (5 ml) was added H2NNH2 (147 mg, 4.6 mmol), KOH (1.9 g 13.8 mmol), and heated to 110° C. for 12 hours. The mixture was cooled to room temperature, diluted with water (5 mL) and extracted with EtOAc. The combined organic layers were washed with water (7 mL), brine (10 mL), dried (MgSO4), filtered and concentrated under reduced pressure to a residue which is triturated with CH2Cl2 to afford an off white solid, (131 mg, 93%). Mp: 151-154° C., MS (ES−) 313 (M−H).

reactant | methyl methyl{2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethyl}carbamate | 0.46 mmol, 171 mg | CN(C(OC)=O)CCC=1C=C2C(=CNC2=CC1)S(=O)(=O)C1=CC=CC=C1 | C19H20N2O4S
reactant | H2NNH2 | 4.6 mmol, 147 mg | NN | H4N2
reactant | KOH | 13.8 mmol, 1.9 g | [OH-].[K+]
solvent | ethylene glycol | 5 ml | C(CO)O | C2H6O2
solvent | water | 5 mL | O | H2O
product | N-methyl-N-{2-[3-(phenylsulfonyl)-1H-indol-5-yl]ethyl}amine | CNCCC=1C=C2C(=CNC2=CC1)S(=O)(=O)C1=CC=CC=C1 | C17H18N2O2S
